US08026234B2
Compound 105: (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethylpiperidin-4-yl)-3-methoxybenzamide
The title compound was synthesized from (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 4-amino 1-N-ethyl piperidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.47-2.04 (m, 16H) 2.32 (q, J=7.07 Hz, 3H) 2.88 (d, J=11.62 Hz, 2H) 3.28 (s, 3H) 3.67-3.87 (m, 3H) 3.94 (s, 3H) 4.87 (d, J=8.34 Hz, 1H) 5.30-5.45 (m, 2H) 6.01 (ddd, J=17.43, 12.88, 10.86 Hz, 1H) 7.46 (d, J=1.77 Hz, 2H) 7.82 (s, 1H) 8.12 (s, 2H) 8.30 (d, J=8.08 Hz, 1H). [M+H] calc'd for C30H40FN7O3, 566. found 566.

reactant | (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-amino 1-N-ethyl piperidine | NC1CCN(CC1)CC | C7H16N2
product | (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethylpiperidin-4-yl)-3-methoxybenzamide | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CC)C=C2)OC | C30H40FN7O3
